US09034895B2
6,7,8,9-tetrahydropyrido[1,2-a]indole
To a refluxing solution of 1-(4-bromobutyl)-2-tosyl-1H-indole (178 mg, 0.44 mmol) in 9.5 mL toluene was added dropwise over 5 min a mixture of tributyltin hydride (285 μL, 1.06 mmol) and 2,2′-azobisisobutyronitrile (14 mg, 0.088 mmol) in 22.5 mL toluene. The reaction mixture was refluxed 2 h, then concentrated in vacuo. To the crude product was added 125 μL H2O, 3 mL ethyl acetate, and 150 mg KF and stirred at room temperature overnight. Potassium carbonate was added and the mixture filtered and concentrated in vacuo. The process was repeated with another 125 μL H2O, 3 mL ethyl acetate, and 150 mg KF and stirred at room temperature 2 h. Potassium carbonate added and the mixture filtered and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 10% ethyl acetate in hexanes to give a final yield of 58 mg (0.34 mmol). 1H NMR (500 MHz, CDCl3, δ): 1.89-2.05 (m, 2H), 2.10-2.24 (m, 2H), 3.06 (t, J=6.1 Hz, 2H), 4.11 (t, J=6.1 Hz, 2H), 6.29 (s, 1H), 7.18 (t, J=7.1 Hz, 1H), 7.23 (t, J=7.4 Hz, 1H), 7.35 (d, J=7.9 Hz, 1H), 7.63 (d, J=7.7 Hz, 1H). 13C NMR (500 MHz, CDCl3, δ): 21.76, 23.93, 24.75, 42.78, 97.98, 109.03, 120.06, 120.58, 128.71, 136.76, 137.63. MS m/z 172 [M+H]+.

reactant | 1-(4-bromobutyl)-2-tosyl-1H-indole | 0.44 mmol, 178 mg | BrCCCCN1C(=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1 | C19H20BrNO2S
reactant | tributyltin hydride | 1.06 mmol, 285 μL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobisisobutyronitrile | 0.088 mmol, 14 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 9.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 22.5 mL | C1(=CC=CC=C1)C | C7H8
product | 6,7,8,9-tetrahydropyrido[1,2-a]indole | C1=C2C=C3N(C2=CC=C1)CCCC3 | C12H13N
